US09290451B2
a) 6-Cyclopropylmethoxy-5-(1-hydroxy-cyclobutyl)-pyridine-2-carboxylic acid
Under nitrogen atmosphere, BuLi (0.58 mL, 0.89 mmol) was added dropwise to a solution of 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 9 d, 0.2 g, 0.74 mmol) in THF (20 mL) at −78° C. The reaction mixture was stirred for 1 h at −78° C. then cyclobutanone (CAN 1191-95-3, 1.11 mL, 1.47 mmol) in THF (3 mL) was added to the above solution at −78° C. The reaction mixture was allowed to warm to ambient temperature and stirred for 1 h. The reaction mixture was then quenched with NH4Cl and the pH was adjusted to 2 by addition of 1 N HCl. The mixture was extracted with ethyl acetate (3×10 mL); the organic layers were combined, washed with brine (2×10 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the crude product was used for the next step without further purification; MS (EI): m/e=264.1 [M+H]+.

reactant | BuLi | 0.89 mmol, 0.58 mL | [Li]CCCC
reactant | 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 0.74 mmol, 0.2 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | cyclobutanone | 1.47 mmol, 1.11 mL | C1(CCC1)=O | C4H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Cyclopropylmethoxy-5-(1-hydroxy-cyclobutyl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1(CCC1)O | C14H17NO4
